US04668697
4-Chloro-5-hydroxy-2-sulfamoylbenzo[b]thiophene
A stirred solution of 5-hydroxy-2-sulfamoylbenzo[b]thiophene (3.0 g, 0.013 mole) in CH3CN (60 ml) was treated with N,N-dimethylformamide dimethylacetal (1.75 ml, 0.013 mole). Within 5 minutes, the protected sulfonamide started to precipitate. After 10 minutes, this was redissolved by the addition of CH3CN (65 ml). N-Chlorosuccinimide, (1.91 g, 0.0143 mole) was added in one portion and the mixture was stirred at ambient temperature. After 2 days, another 175 mg of N-chlorosuccinimide was added and stirring was continued for another 3 days. The solvent was evaporated under reduced pressure and the residual solid was triturated with H2O (100 ml) and collected. This solid then was suspended in 6N HCl (70 ml) and heated on the steam bath for 61/2 hours. The resulting solid was extracted into ethyl acetate. Evaporation of the washed and dried extract under reduced pressure left 3.1 g (90%) of 4-chloro-5-hydroxy-2-sulfamoylbenzo[ b]thiophene, m.p. 198°-201° C. Recrystallization from H2O, decolorizing with charcoal, gave 2.6 g, m.p. 203°-205° C.

reactant | 5-hydroxy-2-sulfamoylbenzo[b]thiophene | 0.013 mole, 3.0 g | OC1=CC2=C(SC(=C2)S(N)(=O)=O)C=C1 | C8H7NO3S2
reactant | N,N-dimethylformamide dimethylacetal | 0.013 mole, 1.75 ml | COC(N(C)C)OC | C5H13NO2
reactant | N-Chlorosuccinimide | 0.0143 mole, 1.91 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 175 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | CH3CN | 60 ml | CC#N | C2H3N
product | 4-Chloro-5-hydroxy-2-sulfamoylbenzo[b]thiophene | ClC1=C(C=CC=2SC(=CC21)S(N)(=O)=O)O | C8H6ClNO3S2
